US09023864B2
{7-[4-(4-Trifluoromethyl-phenyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetic acid
The title compound was prepared using procedures described in EXAMPLE 1 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 1-ethynyl-4-(trifluoromethyl)benzene. MS (+ESI) m/z: 441.1.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 1-ethynyl-4-(trifluoromethyl)benzene | C(#C)C1=CC=C(C=C1)C(F)(F)F | C9H5F3
product | {7-[4-(4-Trifluoromethyl-phenyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetic acid | FC(C1=CC=C(C=C1)C=1N=NN(C1)C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1)(F)F | C23H19F3N4O2
